US07560568B2
2-(6-Fluoro-1H-benzimidazol-1-yl)-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide
Following the procedure described above for the preparation of 2-(1H-benzimidazol-1-yl)-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide using the following materials: 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide (0.050 g, 0.14 mmol), 5-fluorobenzimidazole (0.011 g, 0.08 mmol), K2CO3 (0.011 g, 0.08 mmol) and DMF (4 mL). Data for 6 regioisomers: 1H NMR (400 MHz, CDCl3) δ 8.46 (s, 1H), 7.82-7.74 (m, 2H), 7.69-7.58 (m, 3H), 7.54-7.50 (m, 1H), 7.16 (td, J=9.1, 2.4 Hz, 1H), 6.80 (bs, 1H), 5.82 (s, 2H), 5.76 (bs, 1H). MS m/z 437 (m+1).

reactant | 2-(1H-benzimidazol-1-yl)-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)OCC2=C(C=CC=C2)C(F)(F)F)C(=O)N | C19H13F3N4O2S
reactant | 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide | 0.14 mmol, 0.050 g | ClC=1SC(=C(N1)OCC1=C(C=CC=C1)C(F)(F)F)C(=O)N | C12H8ClF3N2O2S
reactant | 5-fluorobenzimidazole | 0.08 mmol, 0.011 g | FC1=CC2=C(N=CN2)C=C1 | C7H5FN2
reactant | K2CO3 | 0.08 mmol, 0.011 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(6-Fluoro-1H-benzimidazol-1-yl)-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide | FC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)OCC2=C(C=CC=C2)C(F)(F)F)C(=O)N)C1 | C19H12F4N4O2S
